Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][O:2]/[C:3]([H:4])=[C:5](/[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:6].[O:1][O:2][C:3]([H:4])=[C:5]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],3.530698826580002
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],2.35454962929
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7].[O:8]=[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],1.70272150942
[H:1][C:2]#[C:3][C:4]#[C:5][C:6][O:7][H:8]>>[C:4]#[C:5][C:6][O:7][H:8].[H:1][C:2]#[C:3],5.991923641869999
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],6.448952036980001
[H:9].[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8][C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.85565445264
[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])[H:8].[H:1][C:2]([O:3][C:4][H:5])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],7.46497184469
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12].[H:8],4.33446519574
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:8]([O:7])([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]1[O:7][C:8]1([H:9])[H:10],-2.92802490127
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:7]([H:8])([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6],0.6127296664490001
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:4]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5],3.76415713605
[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.7673719312799998
[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],0.2910950323599999
[H:11].[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])=[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.50315224244
[C:6]=[C:7]([H:8])[H:9].[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:10][H:11]>>[H:1][O:2][C:3][C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[O:10][H:11],-2.01373352557
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-6.16266828775
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[O:7][C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],0.98920439784
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14].[O:1],4.11967027058
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10],3.83974142932
[C:1]([C:2]([H:7])([H:10])[H:11])([H:8])[H:12].[C:3](=[O:4])([H:5])[C:6]#[C:9]>>[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.62071742178
[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2][C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.04552550557
[H:1][O:2][C:3]1[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]1([H:13])[H:14]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]1([H:13])[H:14].[H:6],1.97540559618
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8][H:9]>>[C:2]([H:3])#[C:4][C:5]([H:6])([H:7])[C:8][H:9].[O:1],2.38736746868
[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],3.27187365115
[C:5](#[C:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.36235775785
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[C:7][C:8]([H:9])([H:10])[H:11].[O:1][O:2][C:3][C:4]([H:5])[H:6],1.32309040363
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13],1.0470361049
[C:1]=[C:2]([O:3][H:4])[C:5](=[C:6])[O:7][H:8]>>[C:1]#[C:2][O:3][H:4].[C:5](#[C:6])[O:7][H:8],1.59648393972
